US07119115B2
1.47 cm3 of a commercial 1 M solution of tetrabutylammonium fluoride in tetrahydrofuran are added to a solution of 0.32 g of the E isomer of cyclopropyl(6,6-diphenyl-1-(2-trimethylsilanylethoxymethyl)-6,7-dihydro-1H-indazol-3-yl)methanone O-(2-methoxyethyl)oxime in 50 cm3 of tetrahydrofuran, and the mixture is stirred in the region of 20° C. for 4 days. The solution is concentrated to dryness under reduced pressure and the residue is taken up in 50 cm3 of ethyl acetate; the solution is washed with three times 30 cm3 of water, dried over magnesium sulphate, filtered and concentrated to dryness under reduced pressure (13 kPa). After flash chromatography on a column of silica [eluent: dichloromethane/ethyl acetate (90/10 by volume)], 0.073 g of the E isomer of cyclopropyl(6,6-diphenyl-6,7-dihydro-1H-indazol-3-yl)methanone O-(2-methoxyethyl)oxime, corresponding to Example 6-7B, is thus obtained in the form of a resin, the characteristics of which are as follows:

reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | cyclopropyl(6,6-diphenyl-1-(2-trimethylsilanylethoxymethyl)-6,7-dihydro-1H-indazol-3-yl)methanone O-(2-methoxyethyl)oxime | COCCON=C(C1=NN(C=2CC(C=CC12)(C1=CC=CC=C1)C1=CC=CC=C1)COCC[Si](C)(C)C)C1CC1 | C32H41N3O3Si
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 cm3 | O1CCCC1 | C4H8O
product | cyclopropyl(6,6-diphenyl-6,7-dihydro-1H-indazol-3-yl)methanone O-(2-methoxyethyl)oxime | COCCON=C(C1=NNC=2CC(C=CC12)(C1=CC=CC=C1)C1=CC=CC=C1)C1CC1 | C26H27N3O2
